US07179823B1
A mixture of 6-(2-quinolylmethoxy)-3-pyridylmethanol (2.66 g) and thionyl chloride (10 ml) was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and saturated aqueous sodium bicarbonate solution was added to the residue, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to obtain 2-(5-chloromethyl-2-pyridyloxymethyl)quinoline (2.50 g, yield 88%) as colorless crystals from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 118–119° C.

reactant | 6-(2-quinolylmethoxy)-3-pyridylmethanol | 2.66 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=N1)CO | C16H14N2O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(5-chloromethyl-2-pyridyloxymethyl)quinoline | 2.50 g, yield 88% | ClCC=1C=CC(=NC1)OCC1=NC2=CC=CC=C2C=C1 | C16H13ClN2O
